US07199243B2
To a solution of 4-isopropylphenol (1.007 g, 7.39 mmol) in 15 mL dimethylformamide was added potassium carbonate (2.04 g, 14.79 mmol) and ethyl bromoacetate (1.23 mL, 11.09 mmol). The reaction was stirred for 48 h at ambient temperature. The mixture was diluted with 500 mL water and extracted with diethyl ether (2×200 mL). The organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resultant oil was flash chromatographed with 10% ethyl acetate/hexanes to yield 1.61 g (98%) of ethyl-(4-isopropylphenoxy)acetate as a clear oil.

reactant | 4-isopropylphenol | 7.39 mmol, 1.007 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | potassium carbonate | 14.79 mmol, 2.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 11.09 mmol, 1.23 mL | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | ethyl-(4-isopropylphenoxy)acetate | 1.61 g, 98% | C(C)OC(COC1=CC=C(C=C1)C(C)C)=O | C13H18O3
